US04808608
3-[9-p-chlorobenzyl-6-methoxy-1,2,3,4-tetrahydrocarbazol-1-yl]-propanoic acid
Following the procedure of Example 1, but using 1-(4-chlorobenzyl)-1-(4-methoxyphenyl)hydrazine hydrochloride and methyl-2-cyclohexanone propionate as starting materials, the title compound was prepared.

reactant | 1-(4-chlorobenzyl)-1-(4-methoxyphenyl)hydrazine hydrochloride | Cl.ClC1=CC=C(CN(N)C2=CC=C(C=C2)OC)C=C1
reactant | methyl-2-cyclohexanone propionate | C(CC)(=O)O.CC1C(CCCC1)=O
product | 3-[9-p-chlorobenzyl-6-methoxy-1,2,3,4-tetrahydrocarbazol-1-yl]-propanoic acid | ClC1=CC=C(CN2C3=CC=C(C=C3C=3CCCC(C23)CCC(=O)O)OC)C=C1 | C23H24ClNO3
